* source CIRCUIT DEVELOPMENT
.EXTERNAL OUTPUT VEE
.EXTERNAL OUTPUT VCC
X_U1A         N14736 N14743 VCC VEE N16852 TL062/301/TI
V_V2         N14736 0  
+SIN 0V 1V 1000 0 0 0
X_U2         N14824 N14788 VCC VEE N14788 TL071/301/TI
D_D1         N14743 N16852 D1SS239 
D_D2         N16852 N14811 D1SS239 
D_D3         N14811 N14815 D1SS239 
R_R1         N14815 N14824  10k TC=0,0 
R_R2         N14811 N14788  1k TC=0,0 
R_R3         N14743 N14788  40k TC=0,0 
C_C1         0 N14815  750nf  TC=0,0 
R_R4         0 N14788  10k TC=0,0 
V_V3         VCC 0 9V
V_V4         VEE 0 -9V
