* source PEAK DETECTOR
.EXTERNAL OUTPUT VCC
.EXTERNAL OUTPUT VEE
X_U1A         N00401 N00411 VCC VEE N00429 TL062/301/TI
V_V3         N00401 0  
+SIN 0V 1V 1000 0 0 0
D_D1         N00429 N00411 D1N4148 
R_R1         0 N00411 100k
C_C1         0 N00411 Cbreak 470n 
V_V4         VCC 0 9V
V_V5         VEE 0 -9V
